US05998436
Synthesis of 7-(3-aminoazetidin-1-yl)-1-(6-amino-5-fluoro-3-methylpyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 250 mg of N,N-dimethylformamide were added 80 mg of 1-(6-amino-5-fluoro-3-methylpyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 60 mg of 3-aminoazetidine dihydrochloride, and 120 mg of N-methylpyrrolidine, and the mixture was stirred at 85° C. for 45 minutes. After adding 0.5 ml of ethanol, the mixture was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 72 mg of the title compound as a colorless powder.

reactant | N,N-dimethylformamide | 250 mg | CN(C=O)C | C3H7NO
reactant | 1-(6-amino-5-fluoro-3-methylpyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 80 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)C)F | C16H9ClF3N3O3
reactant | 3-aminoazetidine dihydrochloride | 60 mg | Cl.Cl.NC1CNC1
reactant | N-methylpyrrolidine | 120 mg | CN1CCCC1 | C5H11N
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 7-(3-aminoazetidin-1-yl)-1-(6-amino-5-fluoro-3-methylpyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 72 mg | NC1CN(C1)C1=C(C=C2C(C(=CN(C2=C1Cl)C1=NC(=C(C=C1C)F)N)C(=O)O)=O)F | C19H16ClF2N5O3
